US05641880
(S)-7-[(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)]-1,2,3,4,6,7,8,12b-octahydro-6-oxopyrido[2,1-a][2]benzazepine-4-carboxylic acid
Combine (S)-7-[(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)]-1,2,6,7,8,12b-hexahydro-6-oxopyrido[2,1-a][2]benzazepine (800 mg, 2.2 mmol) and sulfuric acid (24 mL) in a pressure vessel. Carefully, add formic acid (4.0 mL, 87 mmol) to minimize mixing and thereby the formation of carbon monoxide. Seal the pressure vessel and add carbon monoxide to 300 psi before stirring. (Caution, upon mixing a sharp rise in pressure will occur.) After 16 hours, vent the vessel and add the reaction mixture to an ice/water mixture (160 mL). Extract repeatedly with ethyl acetate. Combine the organic layers and extract repeatedly with aqueous 10% potassium bicarbonate solution. Combine the potassium bicarbonate solution layers and cool in an ice-bath. Acidify to pH 1 using aqueous 6M hydrochloric acid solution. Extract the acidified aqueous layer repeatedly with ethyl acetate. Combine the organic layers and extract with saturated aqueous sodium chloride solution, dry over MgSO4, filter, and evaporate in vacuo to give the title compound.

reactant | (S)-7-[(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)]-1,2,6,7,8,12b-hexahydro-6-oxopyrido[2,1-a][2]benzazepine | 2.2 mmol, 800 mg | O=C1N(C(C2=CC=CC=C12)=O)[C@@H]1C(N2C(C3=C(C1)C=CC=C3)CCC=C2)=O | C22H18N2O3
reactant | sulfuric acid | 24 mL | S(O)(O)(=O)=O | H2O4S
reactant | formic acid | 87 mmol, 4.0 mL | C(=O)O | CH2O2
reactant | carbon monoxide | [C]=O | CO
product | (S)-7-[(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)]-1,2,3,4,6,7,8,12b-octahydro-6-oxopyrido[2,1-a][2]benzazepine-4-carboxylic acid | O=C1N(C(C2=CC=CC=C12)=O)C1C(N2C(C3=C(C1)C=CC=C3)CCC[C@H]2C(=O)O)=O | C23H20N2O5
